US07691882B2
5-Fluoro-3-iodo-pyridin-2-ylamine
To a mixture of 2-amino-5-fluoropyridine (2.0 g, 17.8 mmol) and dimethyl sulfoxide (50 mL) was added N-iodosuccinimide (4.8 g, 21.4 mmol), which was stirred for 1 hour at room temperature. A suitable amount of acetic acid was added to this mixture, which was stirred for 1 hour at the same temperature, and then stirred for another 3 hours at 55° C. This reaction mixture was cooled to room temperature, after which a saturated sodium hydrogencarbonate aqueous solution was added, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue thus obtained was purified by NH silica gel column chromatography (ethyl acetate) to obtain the title compound (751 mg, 18%).

reactant | 2-amino-5-fluoropyridine | 17.8 mmol, 2.0 g | NC1=NC=C(C=C1)F | C5H5FN2
reactant | dimethyl sulfoxide | 50 mL | CS(=O)C | C2H6OS
reactant | N-iodosuccinimide | 21.4 mmol, 4.8 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Fluoro-3-iodo-pyridin-2-ylamine | 751 mg, 18% | FC=1C=C(C(=NC1)N)I | C5H4FIN2
